US08236976B2
Preparation of 1-(3-Butyl-oxiranyl)-propan-1-ol (27)
The product was prepared by General procedure T using 50 mg (0.28 mmol) Cy2BH, 32 μL (0.28 mmol) 1-hexyne, 0.39 mL (0.78 mmol, 2.0 M in hexanes) Et2Zn, 2.4 mg (0.01 mmol) (−)-MIB, 18 μL (0.25 mmol) propanal, 50 μL (0.05 mmol, 1.0 M in hexanes) Ti(OiPr)4, and 21 μL (0.10 mmol) (+)-DIPT. The crude product was purified by column chromatography (5% ethyl acetate in hexanes) to afford the title compound in 68% yield (27 mg, 0.17 mmol). threo-diastereomer: Colorless oil. [α]D20=−12.5 (c=0.12, CHCl3); 1H NMR (CDCl3, 500 MHz): δ 0.88 (t, 3H, J=7.0 Hz), 0.99 (t, 3H, J=7.5 Hz), 1.31-1.41 (m, 4H), 1.48-1.62 (m, 4H), 1.76 (br s, 1H), 2.73 (br t, 1H, J=2.7 Hz), 2.96 (dt, 1H, J=5.7, 2.0 Hz), and 3.70 (m, 1H) ppm; 13C{1H} NMR (CDCl3, 125 MHz): δ 9.6, 13.9, 22.5, 26.5, 28.1, 31.3, 54.9, 60.7, and 69.7 ppm; IR (neat): 3356, 2960, 2922, 2852, 2355, 2332, 1729, 1463, 1414, 1378, and 1261 cm−1; HRMS-CI m/z 141.1273 [(M−OH)+; calcd for C9H17O: 141.1279]. erythro-diastereomer: Colorless oil. [α]D20=9.2 (c=0.41, CHCl3); 1H NMR (CDCl3, 500 MHz): δ 0.88 (t, 3H, J=7.0 Hz), 0.97 (t, 3H, J=7.5 Hz), 1.22-1.27 (m, 2H), 1.30-1.43 (m, 4H), 1.48-1.56 (m, 2H), 1.82 (br s, 1H), 2.70 (dd, 1H, J=4.9, 2.1 Hz), 2.87 (dt, 1H, J=5.6, 2.0 Hz), and 3.35 (m, 1H) ppm; 13C{1H} NMR (CDCl3, 125 MHz): δ 9.7, 13.9, 22.5, 27.5, 28.0, 31.3, 56.9, 61.5, and 72.6 ppm; IR (neat): 3424, 2959, 2922, 2851, 2362, 2332, 1731, 1463, 1408, and 1373 cm−1; HRMS-CI m/z 141.1273 [(M−OH)+; calcd for C9H17O: 141.1279].

reactant | Cy2BH | 0.28 mmol, 50 mg | B(C1CCCCC1)C1CCCCC1 | C12H23B
reactant | 1-hexyne | 0.28 mmol, 32 μL | C#CCCCC | C6H10
reactant | Et2Zn | 0.78 mmol, 2.0 M, 0.39 mL | [Zn](CC)CC
reactant | propanal | 0.25 mmol, 18 μL | C(CC)=O | C3H6O
reactant | (+)-DIPT | 0.10 mmol, 21 μL | CC(C)OC(=O)[C@@H]([C@H](C(=O)OC(C)C)O)O | C10H18O6
catalyst | Ti(OiPr)4 | 0.05 mmol, 1.0 M, 50 μL | CC(C)O[Ti](OC(C)C)(OC(C)C)OC(C)C
product | 1-(3-Butyl-oxiranyl)-propan-1-ol | 68% yield | C(CCC)C1C(O1)C(CC)O | C9H18O2
